US06316658B1
Into a 1-liter four-necked flask provided with a reflux condenser, a stirrer and a thermometer were fed 53.0 g (0.24 mol) of 2-bromo-6-nitrophenol, 40.5 g (0.49 mol) of 48% sodium hydroxide, 240 ml of 1,3-dimethylimidazolidine-2-one and 40.5 g of water. The mixture was heated to 80° C. and stirred at the same temperature for 1.5 hours with heating while chlorodifluoromethane (flon 22) was blown thereinto from a bomb. Then, while 20.0 g of 48% sodium hydroxide was added in seven portions, blowing of flon gas was continued at the same temperature for 7.5 hours. The total amount of flon gas blown was 242.3 g (2.80 mol). The reaction mixture was cooled. Thereto were added 26.0 g of 48% sodium hydroxide, 1 liter of water and 500 ml of ether, and extraction and layer separation was conducted. The organic layer was separated, and the water layer was subjected to reextraction using 500 ml of ether. The ether layers were combined and washed with 500 ml of water two times. The resulting organic layer was dried over anhydrous sodium sulfate and subjected to distillation to remove the solvent and obtain 45.4 g of 3-bromo-2-difluoromethoxynitrobenzene (yield: 70.6%, purity: 98.1%).

reactant | 2-bromo-6-nitrophenol | 0.24 mol, 53.0 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | sodium hydroxide | 0.49 mol, 40.5 g | [OH-].[Na+]
reactant | 1,3-dimethylimidazolidine-2-one | 240 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | sodium hydroxide | 20.0 g | [OH-].[Na+]
solvent | water | 40.5 g | O | H2O
product | 3-bromo-2-difluoromethoxynitrobenzene | 45.4 g, yield: 70.6% | BrC=1C(=C(C=CC1)[N+](=O)[O-])OC(F)F | C7H4BrF2NO3
